US05817671
5-(N-[butyryl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.30 gm (1.3 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.165 mL (1.56 mMol) butyryl chloride, 0.22 gm of the title compound were prepared as an ivory foam essentially by the procedure described in Example 4. This residue was crystallized from ethanol:water to provide material for analysis.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.3 mMol, 0.30 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | butyryl chloride | 1.56 mMol, 0.165 mL | C(CCC)(=O)Cl | C4H7ClO
product | 5-(N-[butyryl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.22 gm | C(CCC)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C17H24N4O
